US09193707B2
8. Synthesis of 5-(benzyloxy)-N,N-dimethyl-1,2,3,4-tetrahydroisoquinolin-6-amine
Into a 100-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed 3-(2-aminoethyl)-2-(benzyloxy)-N,N-dimethylaniline (1 g, 3.70 mmol, 1.00 equiv), formic acid (10 mL) and (CHOH)n (89 mg). The resulting solution was stirred overnight at 55° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 10 mL of water. The pH value of the solution was adjusted to 10 with sodium hydroxide (10 mol/L). The resulting solution was extracted with 1×50 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×20 mL of water. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 1 g (96%) of 5-(benzyloxy)-N,N-dimethyl-1,2,3,4-tetrahydroisoquinolin-6-amine as brown oil. MS (ESI) m/z 283 ([M+H]+).

reactant | 3-(2-aminoethyl)-2-(benzyloxy)-N,N-dimethylaniline | 3.70 mmol, 1 g, 1.00 equiv | NCCC=1C(=C(N(C)C)C=CC1)OCC1=CC=CC=C1 | C17H22N2O
reactant | formic acid | 10 mL | C(=O)O | CH2O2
product | 5-(benzyloxy)-N,N-dimethyl-1,2,3,4-tetrahydroisoquinolin-6-amine | C(C1=CC=CC=C1)OC1=C2CCNCC2=CC=C1N(C)C | C18H22N2O
